US04575501
2-(2,3-dimethylphenylazo)-2-thiazoline
3.5 ml of 30% strength perhydrol were added to a mixture of 6.5 g (0.025 mol) of 2-[2-(2,3-dimethylphenyl)-hydrazino]-2-thiazoline hydrochloride, 60 ml of methylene chloride and 50 ml of 2N sodium hydroxide solution. The mixture was stirred for 18 hours under reflux, and a further 2 ml of perhydrol were added after 6 hours, and another 1 ml of perhydrol after 12 hours. The organic phase was separated off, dried over potassium carbonate and evaporated down, and the residue was recrystallised from hexane/diethyl ether. Mp. 74° to 79°, yield 4.1 g (74% of theory).

reactant | perhydrol | OO | H2O2
reactant | 2-[2-(2,3-dimethylphenyl)-hydrazino]-2-thiazoline hydrochloride | 0.025 mol, 6.5 g | Cl.CC1=C(C=CC=C1C)NNC=1SCCN1
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
reactant | perhydrol | 2 ml | OO | H2O2
reactant | perhydrol | 1 ml | OO | H2O2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,3-dimethylphenylazo)-2-thiazoline | CC1=C(C=CC=C1C)N=NC=1SCCN1 | C11H13N3S
